US05151418
N-Ethyl-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A solution of 6.5 g (0.03 mole) of crude 3-[4-(trifluoromethyl)phenoxy]azetidine in 50 ml of isopropyl ether was stirred under a blanket of nitrogen while 2.85 g (0.04 mole) of ethyl isocyanate was added dropwise. After stirring for 2 hr at ambient temperature, a solid began to precipitate, and after 4 hr, the solid was collected by filtration to yield 3.7 g of beige product, m.p. 94°-96° C. Rework of the filtrate gave only a trace of additional product. The product was recrystallized from isopropyl ether/hexane (treated with charcoal) to yield 2.61 g (30%) of product, m.p. 109°-110° C.

reactant | 3-[4-(trifluoromethyl)phenoxy]azetidine | 0.03 mole, 6.5 g | FC(C1=CC=C(OC2CNC2)C=C1)(F)F | C10H10F3NO
reactant | ethyl isocyanate | 0.04 mole, 2.85 g | C(C)N=C=O | C3H5NO
solvent | isopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
product | N-Ethyl-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 3.7 g | C(C)NC(=O)N1CC(C1)OC1=CC=C(C=C1)C(F)(F)F | C13H15F3N2O2
